US05691331
Step II-C: 3-Azido-1-(2-propyl)-5-(2,2,2-trifluoroethyl)-1,5-benzodiazepine-2,4-dione
To a stirring solution of 1-(2-propyl)-5-(2,2,2-trifluoroethyl)-1,5-benzodiazepine-2,4-dione (440 mg, 1.46 mmole) in tetrahydrofuran (12 mL), which was cooled to -78° C. in a dry ice/acetone bath, was added dropwise potassium tert-butoxide (1M in tetrahydrofuran, 1.61 mL, 1.61 mmole). After ten minutes, 2,4,6-triisopropylbenzenesulfonyl azide (495 mg, 1.61 mmole) in tetrahydrofuran (5 mL) was added dropwise. After ten minutes, acetic acid (0.35 mL,5.84 mmole) in tetrahydrofuran (5 mL) was added in one portion and the reaction was warmed to room temperature over three hours. The reaction was poured into a solution of saturated sodium hydrogen carbonate (200 mL) and extracted with ethyl acetate (3×100 mL). The organic layers were combined, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 1:3 ethyl acetate:hexane to give 350 mg of product identified as the axial conformer and 35 mg of the equatorial isomer. NMR data is given for the major isomer.

reactant | 1-(2-propyl)-5-(2,2,2-trifluoroethyl)-1,5-benzodiazepine-2,4-dione | 1.46 mmole, 440 mg | CC(C)N1C(CC(N(C2=C1C=CC=C2)CC(F)(F)F)=O)=O | C14H15F3N2O2
reactant | potassium tert-butoxide | 1.61 mmole, 1M, 1.61 mL | CC(C)([O-])C.[K+]
reactant | 2,4,6-triisopropylbenzenesulfonyl azide | 1.61 mmole, 495 mg | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)N=[N+]=[N-] | C15H23N3O2S
reactant | acetic acid | 5.84 mmole, 0.35 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | 200 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-Azido-1-(2-propyl)-5-(2,2,2-trifluoroethyl)-1,5-benzodiazepine-2,4-dione | 350 mg | N(=[N+]=[N-])C1C(N(C2=C(N(C1=O)C(C)C)C=CC=C2)CC(F)(F)F)=O | C14H14F3N5O2
